US05486525
To a 0° C. solution of 5-hydroxymethyl-2-carboethoxyfuran (2.94 g, 17.3 mmol), prepared as in step 1, in CH2Cl2 (50 mL) was added 2,6-lutidine (2.50 mL, 21.5 mmol) and methanesulfonyl chloride (1.50 mL, 19.0 mmol). The reaction mixture was stirred for 40 min at 0° C., then the cold bath was removed and stirring was continued for 2 hours. The reaction mixture was extracted with 1N aqueous HCl and saturated aqueous NaHCO3, and the organic phase was dried over MgSO4, filtered, and concentrated in vacuo to give 5-methanesulfonyloxymethyl-2-carboethoxyfuran (4.0 g) as a yellow oil which was used without further purification.

reactant | 5-hydroxymethyl-2-carboethoxyfuran | 17.3 mmol, 2.94 g | OCC1=CC=C(O1)C(=O)OCC | C8H10O4
reactant | 2,6-lutidine | 21.5 mmol, 2.50 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | methanesulfonyl chloride | 19.0 mmol, 1.50 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-methanesulfonyloxymethyl-2-carboethoxyfuran | 4.0 g | CS(=O)(=O)OCC1=CC=C(O1)C(=O)OCC | C9H12O6S
